US05123951
1-Carboethoxycyclopropanecarboxylic acid (3.95 grams, 0.025 mole), ethyl chloroformate (2.71 grams, 0.025 mole) and aniline (2.33 grams, 0.025 mole) were reacted sequentially in the presence of triethylamine (2.53 grams, 0.025 mole) in a manner similar to that described for ethyl 1-(4-chloro-2-ethylphenylaminocarbonyl)cyclopropanecarboxylate in Example XXXIII to give ethyl 1-(phenylaminocarbonyl)cyclopropanecarboxylate which was then hydrolyzed in a manner similar to that described in Example VII to give 2.42 grams (0.01 mole) of 1-(phenylaminocarbonyl)cyclopropanecarboxylic acid having a melting point of 178° C.-181° C. NMR analysis of the product indicated the following:

reactant | 1-Carboethoxycyclopropanecarboxylic acid | 0.025 mole, 3.95 grams | C(=O)(OCC)C1(CC1)C(=O)O | C7H10O4
reactant | ethyl chloroformate | 0.025 mole, 2.71 grams | ClC(=O)OCC | C3H5ClO2
reactant | aniline | 0.025 mole, 2.33 grams | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 0.025 mole, 2.53 grams | C(C)N(CC)CC | C6H15N
reactant | ethyl 1-(4-chloro-2-ethylphenylaminocarbonyl)cyclopropanecarboxylate | ClC1=CC(=C(C=C1)NC(=O)C1(CC1)C(=O)OCC)CC | C15H18ClNO3
product | ethyl 1-(phenylaminocarbonyl)cyclopropanecarboxylate | C1(=CC=CC=C1)NC(=O)C1(CC1)C(=O)OCC | C13H15NO3
